US06903117B2
3-[2,6-Dimethyl-4-(2-pyrimidinyl)piperazin-1-yl]propylamine.
50 mg (1.54 mmol) of LiAlH4 were added to a solution of 0.2 g (0.77 mmol) of 3-[2,6-dimethyl-4-(2-pyrimidinyl)piperazin-1-yl]propylamide in 5 ml of diethylether and 5 ml of THF. The mixture was stirred one hour at room temperature and one additional hour at reflux, then the reaction was quenched by successive addition of 50 ul of water, 50 ul of 15% aqueous NaOH and 3×50 ul water. The mixture was diluted with diethyl ether, filtered, dried over MgSO4 and concentrated under reduced pressure. The residue was purified by column chromatography on silicagel (CH2Cl2, EtOH, NH4OH: 45, 5, 1) to afford 0.037 g of the title compound.

reactant | LiAlH4 | 1.54 mmol, 50 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-[2,6-dimethyl-4-(2-pyrimidinyl)piperazin-1-yl]propylamide | 0.77 mmol, 0.2 g | CC1N(C(CN(C1)C1=NC=CC=N1)C)CCC[NH-]
solvent | diethylether | 5 ml | C(C)OCC | C4H10O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-[2,6-Dimethyl-4-(2-pyrimidinyl)piperazin-1-yl]propylamine | 0.037 g | CC1N(C(CN(C1)C1=NC=CC=N1)C)CCCN | C13H23N5
